US09023840B2
4-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-isopropylbenzamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 3, Step 1-3 starting from 4-chloro-2,5-difluorobenzoic acid (Aldrich: Cat. #443824), 2-propanamine and {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride. LCMS (M+H)+: m/z=477.2. 1H NMR (400 MHz, DMSO-d6): δ 12.61 (s, 1H), 9.08 (s, 1H), 8.84 (s, 1H), 8.57 (s, 1H), 7.80 (m, 2H), 7.37 (dd, J=13.0, 7.0 Hz, 1H), 7.23 (m, 1H), 6.63 (dd, J=13.0, 8.0 Hz, 1H), 4.51 (d, J=9.0 Hz, 2H), 4.42 (d, J=9.0 Hz, 2H), 3.78 (s, 2H), 4.03 (m, 1H), 1.13 (d, J=6.5 Hz, 6H).

reactant | 4-chloro-2,5-difluorobenzoic acid | ClC1=CC(=C(C(=O)O)C=C1F)F | C7H3ClF2O2
reactant | 2-propanamine | CC(C)N | C3H9N
reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
product | 4-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-isopropylbenzamide | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)NC(C)C)C=C1F)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C24H22F2N8O
